US09402841B2
Step E: (S)-3-(1-((1-acryloylpyrrolidin-3-yl)amino)-7-chloroisoquinolin-3-yl)-1H-1,2,4-triazol-5(4H)-one
To a mixture of (S)-3-(7-chloro-1-(pyrrolidin-3-ylamino)isoquinolin-3-yl)-1H-1,2,4-triazol-5(4H)-one hydrochloride (120 mg) in DCM (8 mL) was added 2,6-dimethylpyridine (105 mg, 0.978 mmol). The resulting mixture was cooled to −78° C. and acryloyl chloride (48 mg, 0.530 mmol, 10 mg/mL in dry DCM) was added dropwise. The reaction mixture was stirred at −78° C. for 30 minutes. The reaction was quenched with MeOH (5 mL) and the mixture was concentrated in vacuo. The crude product was purified by preparative HPLC to give the title compound (22 mg, 18% over 2 steps). 1H NMR (400 MHz, DMSO-d6) δ ppm 11.87 (s, 1H), 11.72 (s, 1H), 8.51 (S, 1H), 7.88 (m, 1H), 7.60-7.70 (m, 2H), 7.56 (d, 1H, J=4.0 Hz), 6.55-6.57 (m, 1H), 6.13-6.19 (m, 1H), 5.63-5.70 (m, 1H), 5.17-5.18 (m, 1H), 3.65-4.17 (m, 4H), 2.01-2.37 (m, 2H); ESI-MS m/z [M+H]+ 385.

reactant | (S)-3-(7-chloro-1-(pyrrolidin-3-ylamino)isoquinolin-3-yl)-1H-1,2,4-triazol-5(4H)-one hydrochloride | 120 mg | Cl.ClC1=CC=C2C=C(N=C(C2=C1)N[C@@H]1CNCC1)C1=NNC(N1)=O
reactant | 2,6-dimethylpyridine | 0.978 mmol, 105 mg | CC1=NC(=CC=C1)C | C7H9N
reactant | acryloyl chloride | 0.530 mmol, 48 mg | C(C=C)(=O)Cl | C3H3ClO
solvent | DCM | 8 mL | C(Cl)Cl | CH2Cl2
product | (S)-3-(1-((1-acryloylpyrrolidin-3-yl)amino)-7-chloroisoquinolin-3-yl)-1H-1,2,4-triazol-5(4H)-one | 22 mg, 18% | C(C=C)(=O)N1C[C@H](CC1)NC1=NC(=CC2=CC=C(C=C12)Cl)C1=NNC(N1)=O | C18H17ClN6O2
